US05962458
Diethyl azodicarboxylate (296 μl, 1.88 mmol) was added dropwise to a solution of 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride (350 mg, 0.94 mmol), (prepared as described for the starting material in Example 22), triphenylphosphine (492 mg, 1.88 mmol) and 2-chloro-4-hydroxymethyl-6-methylpyridine (178 mg, 1.12 mmol) in methylene chloride (30 ml) and the mixture stirred for 30 minutes at ambient temperature. The solvent was removed by evaporation and the residue was purified by column chromatography eluting with ethyl acetate/methylene chloride (75/25). The purified product was triturated with ether, the solid collected by filtration, washed with ether and dried under vacuum to give 7-((2-chloro-6-methyl-4-pyridyl)methoxy)-4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-6-methoxyquinazoline (373 mg, 78%).

reactant | Diethyl azodicarboxylate | 1.88 mmol, 296 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride | 0.94 mmol, 350 mg | Cl.FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C(C(=C1)C)OC(=O)OC
reactant | triphenylphosphine | 1.88 mmol, 492 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-chloro-4-hydroxymethyl-6-methylpyridine | 1.12 mmol, 178 mg | ClC1=NC(=CC(=C1)CO)C | C7H8ClNO
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 7-((2-chloro-6-methyl-4-pyridyl)methoxy)-4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-6-methoxyquinazoline | 373 mg, 78% | ClC1=NC(=CC(=C1)COC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C(=C1)OC(=O)OC)C)F)OC)C | C25H22ClFN4O5
